US08471027B2
A solution of 2-bromo-4-chlorobenzoic acid (25.0 g, 106.0 mmol) in 2-ethoxy ethanol (40 mL) was treated with copper powder (0.74 g, 11.6 mmol), copper (I) oxide (0.76 g, 5.3 mmol) and potassium carbonate (15.8 g, 114.0 mmol) at 25° C. under nitrogen. The reaction was stirred at 25° C. for 5 min. At this time, the reaction was treated with aniline (11.2 mL, 124 mmol) and then was heated 135° C. for 48 h. At this time, the reaction was cooled to 25° C., diluted with water (30 mL) and was acidified with a 1N aqueous hydrochloric acid solution. The resulting mixture was stirred at 25° C. overnight. At this time, the resulting precipitate was collected by filtration through a sintered glass funnel. The solids were washed with an excess amount of water (2×100 mL) and then were dried under high vacuum to afford 4-chloro-2-phenylamino-benzoic acid (19 g, 72.3%) as a brown solid. This material was used without further purification.

reactant | 2-bromo-4-chlorobenzoic acid | 106.0 mmol, 25.0 g | BrC1=C(C(=O)O)C=CC(=C1)Cl | C7H4BrClO2
reactant | potassium carbonate | 114.0 mmol, 15.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | aniline | 124 mmol, 11.2 mL | NC1=CC=CC=C1 | C6H7N
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | 2-ethoxy ethanol | 40 mL | C(C)OCCO | C4H10O2
solvent | water | 30 mL | O | H2O
catalyst | copper | 11.6 mmol, 0.74 g | [Cu] | Cu
catalyst | copper (I) oxide | 5.3 mmol, 0.76 g | [Cu-]=O
product | 4-chloro-2-phenylamino-benzoic acid | 19 g, 72.3% | ClC1=CC(=C(C(=O)O)C=C1)NC1=CC=CC=C1 | C13H10ClNO2
